US06881844B2
A solution of 6-chloro-1-ethyl-1H-indole-3-carboxylic acid (240 mg, 1.07 mmol) in methylene chloride (3 mL) was cooled to 0° C. and then treated with N,N-dimethylformamide (1 drop) and oxalyl chloride (0.14 mL, 1.61 mmol). The reaction was stirred at 0° C. for 15 min and then was allowed to warm to 25° C. where it was stirred for 1 h. At this time, the reaction was concentrated in vacuo. The residue was dissolved in methylene chloride (1 mL), and this mixture was then added to a solution of 2-aminothiazole (214 mg, 2.14 mmol) and triethylamine (0.30 mL, 2.14 mmol) in N,N-dimethylformamide (2 mL). This mixture was stirred at 25° C. for 16 h. At this time, the reaction was partitioned between water (40 mL) and ethyl acetate (40 mL). This mixture was then treated with a 1N aqueous hydrochloric acid solution (15 mL). The organic layer was washed with a saturated aqueous sodium bicarbonate solution (1×30 mL), water (1×30 mL), and a saturated aqueous sodium chloride solution (1×30 mL). The organic layer was then dried over magnesium sulfate, filtered, and concentrated in vacuo. Recrystallization from ethyl acetate afforded 6-chloro-1-ethyl-1H-indole-3-carboxylic acid thiazol-2-ylamide (27 mg, 8%) as a pale yellow solid: mp 234-236° C.; EI-HRMS m/e calcd for C14H12ClN3OS (M+) 305.0390, found 305.0383.

reactant | 6-chloro-1-ethyl-1H-indole-3-carboxylic acid | 1.07 mmol, 240 mg | ClC1=CC=C2C(=CN(C2=C1)CC)C(=O)O | C11H10ClNO2
reactant | oxalyl chloride | 1.61 mmol, 0.14 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | 2.14 mmol, 214 mg | NC=1SC=CN1 | C3H4N2S
reactant | triethylamine | 2.14 mmol, 0.30 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 6-chloro-1-ethyl-1H-indole-3-carboxylic acid thiazol-2-ylamide | 27 mg, 8% | S1C(=NC=C1)NC(=O)C1=CN(C2=CC(=CC=C12)Cl)CC | C14H12ClN3OS
